US05563136
tert-Butyl (3-isocyanatophenylthio)acetate can be obtained in the following manner: a solution of 2.9 g of tert-butyl (3-aminophenylthio)acetate in 25 cm3 of toluene is added dropwise, at a temperature near to -30° C., to a suspension of 0.24 g of carbon in 1.46 cm3 of trichloromethyl chloroformate and 15 cm3 of toluene. The reaction mixture is stirred for 2 hours at a temperature near to 20° C. and then for 2 hours and 30 minutes at a temperature near to 110° C. The reaction mixture is then cooled to a temperature near to 20° C., degassed by bubbling nitrogen in, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 50° C. 2.6 g of tert-butyl (3-isocyanatophenylthio)acetate are thus obtained in the form of an oil which is used as such in the subsequent syntheses.

reactant | tert-butyl (3-aminophenylthio)acetate | 2.9 g | NC=1C=C(C=CC1)SCC(=O)OC(C)(C)C | C12H17NO2S
reactant | trichloromethyl chloroformate | 1.46 cm3 | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 25 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 cm3 | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (3-isocyanatophenylthio)acetate | 2.6 g | N(=C=O)C=1C=C(C=CC1)SCC(=O)OC(C)(C)C | C13H15NO3S
